US05277709
Aluminium trichloride (50.7 g, 0.38 mol) is added, portionwise, over 15 min, to a solution of methylsuccinic anhydride (20 g, 0.175 mol), toluene (32.3 g, 0.35 mol) and nitrobenzene (100 ml). The reaction mixture is stirred for 3 hours and then warmed to 80° C. for half an hour. On cooling, it is quenched with water (75 ml) and then conc HCl (30 ml). The solid ppt. is filtered, dissolved in Na2CO3 solution, washed with CH2Cl2, re-acidified and the product filtered to yield 23.4 g of 3-(4-methylbenzoyl)-2-methyl-propionic acid as a white solid, m.p. 168°-170°.

reactant | Aluminium trichloride | 0.38 mol, 50.7 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | methylsuccinic anhydride | 0.175 mol, 20 g | CC1C(=O)OC(C1)=O | C5H6O3
reactant | toluene | 0.35 mol, 32.3 g | C1(=CC=CC=C1)C | C7H8
solvent | nitrobenzene | 100 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 3-(4-methylbenzoyl)-2-methyl-propionic acid | 23.4 g | CC1=CC=C(C(=O)CC(C(=O)O)C)C=C1 | C12H14O3
